### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): add `BipartiteDoubleCover`

### PR DESCRIPTION
**Pull request by mitchell-horner**
`bipartiteDoubleCover G` has two vertices `inl v` and `inr v` for each vertex `v` in `G` such that `inl v` (`inr v`) is adjacent to `inr w` (`inl w`) iff `v` is adjacent to `w` in `G`.

---

This comes from splitting up #25841 into smaller PRs.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 1]
```diff
@@ -445,4 +449,90 @@ theorem degree_le_between_add_compl (hw : w ∈ sᶜ) :
...
+
+/-- `bipartiteDoubleCover G` has two vertices `inl v` and `inr v` for each vertex `v` in `G`
+such that `inl v` (`inr v`) is adjacent to `inr w` (`inl w`) iff `v` is adjacent to `w` in `G`. -/
+@[simp] def bipartiteDoubleCover (G : SimpleGraph V) : SimpleGraph (V ⊕ V) where
+  Adj v w := match v, w with
+    | .inl v', .inr w' | .inr v', .inl w' => G.Adj v' w'
+    | _, _ => False
+  symm v w :=  match v, w with
+    | .inl _, .inr _ | .inr _, .inl _ => G.adj_symm
+    | .inl _, .inl _ | .inr _, .inr _ => id
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]: This could also just be `by grind [SimpleGraph.adj_symm]` but that's arguably less clear.
```suggestion
  symm v w := match v, w with
    | .inl _, .inr _ | .inr _, .inl _ => G.adj_symm
    | .inl _, .inl _ | .inr _, .inr _ => id
```

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 2]
```diff
@@ -445,4 +449,90 @@ theorem degree_le_between_add_compl (hw : w ∈ sᶜ) :
...
+instance [h : DecidableRel G.Adj] : DecidableRel G.bipartiteDoubleCover.Adj :=
+  fun v w ↦ match v, w with
+    | .inl _, .inr _ | .inr _, .inl _ => h _ _
+    | .inl _, .inl _ | .inr _, .inr _ => inferInstanceAs (Decidable False)
+
+/-- The bipartite double cover of `G` is contained in the corresponding complete bipartite graph,
+that is, the bipartite double cover of `G` is bipartite. -/
+theorem bipartiteDoubleCover_le : G.bipartiteDoubleCover ≤ completeBipartiteGraph V V :=
+  fun v w hadj ↦ match v, w with
+  | .inl _, .inr _ | .inr _, .inl _ => by simp
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:470]: indentation here doesn't match the above (I'm not sure which is right actually, just noting that they should match.)

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 3]
```diff
@@ -445,4 +449,90 @@ theorem degree_le_between_add_compl (hw : w ∈ sᶜ) :
...
+  | .inl _, .inl _ | .inr _, .inr _ => by simp at hadj
+
+/-- The bipartite double cover of `G` has twice the number of edges as `G`. -/
+theorem bipartiteDoubleCover_card_edgeFinset [Fintype V] [DecidableRel G.Adj] :
+    #G.bipartiteDoubleCover.edgeFinset = 2 * #G.edgeFinset := by
+  rw [two_mul_card_edgeFinset, eq_comm]
+  apply card_bij (fun (v, w) _ ↦ s(.inl v, .inr w)) (fun _ h ↦ by simpa using h)
+    (fun (_, _) _ (_, _) _ ↦ by simp) (fun e he ↦ ?_)
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]: Again, somewhat personal opinion here, but the `by grind` here does seem clearer than the current statement
```suggestion
    (by grind) (fun e he ↦ ?_)
```

**Review by vlad902 — COMMENTED** [review]
Just some minor comments. I tried getting rid of the `Nonempty`s by adding two clauses like 
```lean4
  classical
  by_cases! h' : IsEmpty α
  · refine ⟨∅, right.toLeft ∪ right.toRight, by simp, ?_, by tauto /- should be a simp lemma -/⟩
    have : Disjoint right.toLeft right.toRight := sorry
    simp [card_union, card_toLeft_add_card_toRight, Finset.disjoint_iff_inter_eq_empty.mp this, ← card_right]
```
but then thought maybe it isn't worth the effort. It would be nice to have more API for toLeft/toRight for the case when the summand types are equal.

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]: This sort of case-splitting boilerplate is exactly what `grind` is best used for.

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 4]
```diff
@@ -445,4 +449,90 @@ theorem degree_le_between_add_compl (hw : w ∈ sᶜ) :
...
 end Between
 
+section BipartiteDoubleCover
+
+/-- `bipartiteDoubleCover G` has two vertices `inl v` and `inr v` for each vertex `v` in `G`
+such that `inl v` (`inr v`) is adjacent to `inr w` (`inl w`) iff `v` is adjacent to `w` in `G`. -/
+@[simp] def bipartiteDoubleCover (G : SimpleGraph V) : SimpleGraph (V ⊕ V) where
+  Adj v w := match v, w with
+    | .inl v', .inr w' | .inr v', .inl w' => G.Adj v' w'
+    | _, _ => False
```
Comment (vihdzp) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]: Does this work? I might be misremembering some notation.
```suggestion
  Adj
    | .inl v', .inr w' | .inr v', .inl w' => G.Adj v' w'
    | _, _ => False
```

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]: It does!

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean (hunk 3 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]: The development branch this originates from is pinned to a version of Mathlib prior to `grind`. 😅

I'm happy to accept any and all personal opinions here. 😁

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 5]
```diff
@@ -446,4 +450,87 @@ theorem degree_le_between_add_compl (hw : w ∈ sᶜ) :
...
+
+/-- The bipartite double cover of `G` is contained in the corresponding complete bipartite graph,
+that is, the bipartite double cover of `G` is bipartite. -/
+theorem bipartiteDoubleCover_le : G.bipartiteDoubleCover ≤ completeBipartiteGraph V V :=
+  fun v w hadj ↦ match v, w with
+  | .inl _, .inr _ | .inr _, .inl _ => by simp
+  | .inl _, .inl _ | .inr _, .inr _ => by simp at hadj
+
+/-- The bipartite double cover of `G` has twice the number of edges as `G`. -/
+theorem bipartiteDoubleCover_card_edgeFinset [Fintype V] [DecidableRel G.Adj] :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]:
```suggestion
theorem card_edgeFinset_bipartiteDoubleCover [Fintype V] [DecidableRel G.Adj] :
```

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 6]
```diff
@@ -446,4 +450,87 @@ theorem degree_le_between_add_compl (hw : w ∈ sᶜ) :
...
+  | .inl _, .inr _ => simpa using he
+  | .inr _, .inl _ => simpa using he.symm
+  | .inl _, .inl _ | .inr _, .inr _ => simp at he
+
+/-- If the double cover of `G` contains `completeBipartiteGraph α β`, then `G` also
+contains `completeBipartiteGraph α β`. -/
+theorem bipartiteDoubleCover_completeBipartiteGraph_isContained
+    {α β : Type*} [Finite α] [Finite β] [Nonempty α] [Nonempty β]
+    (h : completeBipartiteGraph α β ⊑ G.bipartiteDoubleCover) :
+    completeBipartiteGraph α β ⊑ G := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]: Can you promote this to an iff?

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 7]
```diff
@@ -446,4 +450,87 @@ theorem degree_le_between_add_compl (hw : w ∈ sᶜ) :
...
+  induction e with | _ v w
+  rw [mem_edgeFinset, mem_edgeSet] at he
+  match v, w with
+  | .inl _, .inr _ => simpa using he
+  | .inr _, .inl _ => simpa using he.symm
+  | .inl _, .inl _ | .inr _, .inr _ => simp at he
+
+/-- If the double cover of `G` contains `completeBipartiteGraph α β`, then `G` also
+contains `completeBipartiteGraph α β`. -/
+theorem bipartiteDoubleCover_completeBipartiteGraph_isContained
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]:
```suggestion
theorem completeBipartiteGraph_isContained_bipartiteDoubleCover
```

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 8]
```diff
@@ -446,4 +450,87 @@ theorem degree_le_between_add_compl (hw : w ∈ sᶜ) :
...
+    · exact card_bij (fun i _ ↦ .inr i) (fun i hi ↦ by simpa using hi) (fun i hi j hj ↦ by simp)
+        (fun i hi ↦ ⟨i.getRight <| (hmem_left hi).right Sum.isRight_inr, by simp [hi]⟩)
+    · exact card_bij (fun j hj ↦ .inl j) (fun j hj ↦ by simpa using hj) (fun i hi j hj ↦ by simp)
+        (fun j hj ↦ ⟨j.getLeft <| (hmem_right hj).left Sum.isLeft_inl, by simp [hj]⟩)
+    · rw [mem_coe, mem_toRight] at hi
+      rw [mem_coe, mem_toLeft] at hj
+      simpa using h hi hj
+  · simpa using h hl hr
+
+theorem bipartiteDoubleCover_isBipartiteWith :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]:
```suggestion
theorem isBipartiteWith_bipartiteDoubleCover :
```
Same below

**Review by YaelDillies — COMMENTED** [review]
What will you use this for?

**Comment by mitchell-horner** [comment]
> What will you use this for?

It is used in [this theorem](https://github.com/leanprover-community/mathlib4/pull/25841/changes#diff-ac6a64b453c55ae53b555e7b81fb4d62ea86ea9865a9dab69ae0b7f78de80aa0R123-R139) to relate `extremalNumber` and `zarankiewicz`.

```
theorem two_mul_extremalNumber_le_zarankiewicz_symm [Nonempty α] [Nonempty β] :
    2 * extremalNumber n (completeBipartiteGraph α β) ≤ zarankiewicz n n (card α) (card β)
```

Which with the bound on `zarankiewicz` from Kővári-Sós-Turán gives the familiar bipartite bound for simple graphs.

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean (hunk 6 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]: Yeah trivially. Good catch.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
